US05089616
3-(2-Amino-4-thiazolyl)-L-alanine L-glutamic acid salt, 37.6 kg (112 mol) and 420 L of methanol are charged into a reactor and stirred as 34.4 kg of triethylamine is added. The slurry is heated to reflux for 1 hour and then cooled to 5° C. The product is filtered, washed with 25 L of methanol to give 26.3 kg of 3-(2-amino-4-thiazolyl)-L-alanine as a white solid containing methanol. A dried sample is >99% pure and >99% enantiomeric excess by chiral high pressure liquid chromatography (HPLC); IR (mineral oil): 3170 (s, br), 1618 (s), 1525 (s), 1108 (m) cm-1.

reactant | 3-(2-Amino-4-thiazolyl)-L-alanine L-glutamic acid salt | N[C@@H](CCC(=O)O)C(=O)O.NC=1SC=C(N1)C[C@H](N)C(=O)O
reactant | methanol | 420 L | CO | CH4O
solvent | triethylamine | 34.4 kg | C(C)N(CC)CC | C6H15N
product | 3-(2-amino-4-thiazolyl)-L-alanine | 26.3 kg | NC=1SC=C(N1)C[C@H](N)C(=O)O | C6H9N3O2S
